US09145433B2
Di-tert-butyl[5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-2H-indazol-2-yl]methyl phosphate (N2, 100 mg, 0.21 mmol) was dissolved in AcOH:H2O (0.5 mL, 4:1) and the clear homogenous solution heated at 60° C. After 1 h, analysis of the reaction mixture LC/MS indicated the 97% consumption of di-tert-butyl[5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-2H-indazol-2-yl]methyl phosphate leading to the desired product of [5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-2H-indazol-2-yl]methyl dihydrogen phosphate (AUC 85%). At this stage heating was discontinued and the reaction mixture was polish filtered by suction. Concentration of the filtrate by rotary evaporator under vacuum (water bath temp 26-28° C.) resulted in a thick viscous liquid which was diluted with acetone (7 mL). The white heterogenous suspension was stirred for 30 min and filtered. The filter cake was washed with acetone (25 mL) and suction dried for a period of 1 h. The collected filter cake was further processed by drying under high vacuum over P2O5 for 24 h to provide [5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-2H-indazol-2-yl]methyl dihydrogen phosphate (63 mg, 71%). 1H NMR (DMSO-d6): δ 8.64 (dd, 1H, J=0.5 and 4.7 Hz), 8.51 (s, 1H), 7.86 (d, 1H, J=7.6 Hz), 7.70 (s, 1H), 7.50-7.41 (app m, 3H), 7.00-6.88 (m, 3H), 6.05 (d, 2H, 3JPH=10 Hz), 2.13 (s, 3H). 19F NMR (DMSO-d6): δ −118.60. 31P NMR (DMSO-d6): δ −2.63. LCMS: 97%, MS (m/e) 414 (MH+).

reactant | Di-tert-butyl[5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-2H-indazol-2-yl]methyl phosphate | 0.21 mmol, 100 mg | P(=O)(OC(N1N=C2C=CC(=CC2=C1)C=1C(=NC=CC1)C1=CC(=C(C=C1)F)C)(C(C)(C)C)C(C)(C)C)([O-])[O-]
reactant | H2O | 0.5 mL | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | acetone | 7 mL | CC(=O)C | C3H6O
product | [5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-2H-indazol-2-yl]methyl dihydrogen phosphate | 63 mg, 71% | P(=O)(OCN1N=C2C=CC(=CC2=C1)C=1C(=NC=CC1)C1=CC(=C(C=C1)F)C)(O)O | C20H17FN3O4P
